US05696112
N-[5-[(5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
To a cooled (0° C.) mixture of 0.306 g of 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine and 1.11 μl of triethylamine in 5 ml of dichloromethane is added 1.17 g of 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride and the mixture is stirred overnight at room temperature under argon. The mixture is diluted with 50 ml of dichloromethane and 20 ml of water and the organic layer separated. The organic layer is washed with 20 ml each of 1M NaHCO3, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate evaporated, concentrated to dryness under vacuum to give a glass. Crystallization from ethyl acetate-hexane gives 0.35 g of white crystals, m.p. 178°-180° C.

reactant | 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 0.306 g | S1C=CC=2NCCCCC21 | C8H11NS
reactant | triethylamine | 1.11 μl | C(C)N(CC)CC | C6H15N
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | 1.17 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | N-[5-[(5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | 0.35 g | S1C=CC=2N(CCCCC21)C(=O)C=2C=CC(=NC2)NC(C2=C(C=CC(=C2)F)C)=O | C22H20FN3O2S
